US04357342
p-Toluenesulfonic anhydride (326 mg, 1 mμol) and N,N-diisopropylethylamine (192 μl, 1.1 mμol) are added to an ice-cold, stirring solution of benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (259 mg, 1 mμol) in anhydrous methylene chloride (10 ml). The resulting solution is stirred in the cold and under a nitrogen atmosphere for 2.5 hours. The solution is diluted with methylene chloride (20 ml), washed with water (10 ml). 1 M pH3 phosphate buffer (10 ml) and 5% aqueous sodium bicarbonate (2×10 ml) dried with magnesium sulfate, filtered, and evaporated under vacuum to a semi-solid. This material is triturated with ice-cold ethyl acetate (2×2 ml) and diethyl ether (2×5 ml) to provide benzyl 3-(p-toluenesulfonyloxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (276 mg, 67%) as a white powder. Recrystallization from methylene chloridediethyl ether gives analytically pure product as small white needles: mp 103°-105°; IR (CH2Cl2) 1786, 1723, 1382, and 1190 cm-1 ; NMR (CDCl3) 8 2.44 (s,3,ArCH3) 3.03 (dd,1,J=3.0 and 17.0,H6β), 3.16 (dd,1,J=8.5 and 18.7,H4a), 3.32 (dd,1,J=10.0 and 18.7,H4b), 3.55 (dd,1,J=5.5 and 17.0, H6α), 4.21 (m,1,H5), 5.14 (ABq,2,J=12,CH2Ar), 7.35 (S,5,ArHN, 7.26 and 7.75 (two d's,4,J=9,ArH); UV(dioxane) 283 (ε6600) and 277 (ε6500) nm.

reactant | p-Toluenesulfonic anhydride | 326 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | N,N-diisopropylethylamine | 192 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 259 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | benzyl 3-(p-toluenesulfonyloxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 276 mg, 67% | C1(=CC=C(C=C1)S(=O)(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1)C | C21H19NO6S
